US07563799B2
To 5-bromo-2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine (3.83 g, 9.23 mmol) in dry THF at 0° C. was added isopropyl magnesium chloride (6.93 mL of 2.0 M solution in THF, 13.85 mmol). The resulting mixture was stirred at 0° C. for 20 minutes. A solution of 2-chloro-5-methylsulfanyl-benzoyl chloride (4.27 g, 19.33 mmol) in 20 mL dry THF was added dropwise, with stirring at 0° C. continued for one hour. The reaction mixture was partitioned between water and ethyl acetate, and the organic layer was separated, washed with saturated brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was chromatographed through silica gel (EtOAc/hexanes 5-25%) to give 3.015 g of [2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-(2-chloro-5-methylsulfanyl-phenyl)-methanone, MS (M+H)=521.

reactant | 5-bromo-2,4-bis-(2,4-difluoro-phenoxy)-pyrimidine | 9.23 mmol, 3.83 g | BrC=1C(=NC(=NC1)OC1=C(C=C(C=C1)F)F)OC1=C(C=C(C=C1)F)F | C16H7BrF4N2O2
reactant | isopropyl magnesium chloride | 13.85 mmol, 2.0 M, 6.93 mL | C(C)(C)[Mg]Cl
reactant | 2-chloro-5-methylsulfanyl-benzoyl chloride | 19.33 mmol, 4.27 g | ClC1=C(C(=O)Cl)C=C(C=C1)SC | C8H6Cl2OS
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-(2-chloro-5-methylsulfanyl-phenyl)-methanone | 3.015 g | FC1=C(OC2=NC=C(C(=N2)OC2=C(C=C(C=C2)F)F)C(=O)C2=C(C=CC(=C2)SC)Cl)C=CC(=C1)F | C24H13ClF4N2O3S
